US05036091
Step 1: Ethyl 4,4,4-trifluoro-3-hydroxybutanoate (code number MD 370270).
To a suspension of 91.2 g (2.4 mol) of sodium borohydride in 6 l of CH2Cl2 cooled at +2° C., are dropwise added 1473 g of ethyl 4,4,4-trifluoroacetoacetate while keeping temperature between +4° and +7° C. After the introduction, 100 ml of absolute ethanol are added while keeping temperature at +3° C. The reaction medium is washed with bicarbonated water. The organic phase is concentrated and the product is distilled at 78° C. under 10 mm Hg.

reactant | sodium borohydride | 2.4 mol, 91.2 g | [BH4-].[Na+]
reactant | ethyl 4,4,4-trifluoroacetoacetate | 1473 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | CH2Cl2 | 6 l | C(Cl)Cl | CH2Cl2
product | Ethyl 4,4,4-trifluoro-3-hydroxybutanoate | FC(C(CC(=O)OCC)O)(F)F | C6H9F3O3
